US09403801B2
Step 9) tert-butyl 8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a solution of tert-butyl 8-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate (0.4 g, 1.09 mmol) and 1-methyl-1H-pyrazol-4-amine (0.16 g, 1.64 mmol) in n-BuOH (5 mL) was added DIPEA (0.28 g, 2.18 mmol). The mixture was stirred at 150° C. for 16 h then concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a red solid (0.51 g, 98%).

reactant | tert-butyl 8-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.09 mmol, 0.4 g | ClC1=NC=CC(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C18H27ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine | 1.64 mmol, 0.16 g | CN1N=CC(=C1)N | C4H7N3
reactant | DIPEA | 2.18 mmol, 0.28 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | tert-butyl 8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.51 g, 98% | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C22H33N7O2
